US06503907B2
In analogy to example 23.7, 5-(4-Bromo-butoxy)-1-(4-chloro-phenyl)-6-fluoro-1H-indole and 2-(ethylamino)ethanol were converted to yield 2-({4-[1-(4-Chloro-phenyl)-6-fluoro-1H-indol-5-yloxy]-butyl}-ethyl-amino)-ethanol as a colorless oil, MS: 405 (MH+).

reactant | 5-(4-Bromo-butoxy)-1-(4-chloro-phenyl)-6-fluoro-1H-indole | BrCCCCOC=1C=C2C=CN(C2=CC1F)C1=CC=C(C=C1)Cl | C18H16BrClFNO
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
product | 2-({4-[1-(4-Chloro-phenyl)-6-fluoro-1H-indol-5-yloxy]-butyl}-ethyl-amino)-ethanol | ClC1=CC=C(C=C1)N1C=CC2=CC(=C(C=C12)F)OCCCCN(CCO)CC | C22H26ClFN2O2
